US07897766B2
1-Hydroxynaphthalene-2-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 1-hydroxy-2-naphthoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.95-2.04 (m, 2H), 2.15-2.27 (m, 1H), 2.33-2.46 (m, 3H), 2.56-2.64 (m, 1H), 3.48-3.90 (m, 6H), 4.42-4.53 (m, 1H), 7.05-7.28 (m, 1H), 7.37-7.57 (m, 2H), 7.67-7.78 (m, 1H), 7.81-7.90 (m, 1H), 8.34-8.44 (m, 1H); MS (APCI/NH3) m/z 323 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 1-hydroxy-2-naphthoic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | NH3 | N | H3N
product | 1-Hydroxynaphthalene-2-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(=O)C2=C(C3=CC=CC=C3C=C2)O | C20H22N2O2
